US09445594B2
Preparation of 1-(o-tolyl)-3-(3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propyl)urea (F77)
In a 25 mL flask, to a solution of 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine (0.160 g, 0.442 mmol) in dichloromethane (2 mL) was added 2-methyl phenylisocyanate (0.06 g, 0.497 mmol) in dichloromethane (5 mL) followed by triethylamine (0.044 g, 0.414 mmol). The reaction mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate and adsorbed onto Celite®. Purification by flash column chromatography (reverse phase) 5% acetonitrile/water provided the title compound as a white solid (0.11 g, 53%).

reactant | 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine | 0.442 mmol, 0.160 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CCCN)(F)F | C18H17F3N4O
reactant | 2-methyl phenylisocyanate | 0.497 mmol, 0.06 g | CC1=C(C=CC=C1)N=C=O | C8H7NO
reactant | triethylamine | 0.414 mmol, 0.044 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(o-tolyl)-3-(3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propyl)urea | 0.11 g, 53% | C1(=C(C=CC=C1)NC(=O)NCCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C | C26H24F3N5O2
